US06403586B1
Preparation of 2-(2-Hydroxyethyl)carbamoylmethyl-6-(4-methoxyphenyl)-4-methylcarbamoyl-2H-pyridazin-3-one
In methanol, 2-ethoxycarbonylmethyl-6-(4-methoxyphenyl)-4-methylcarbamoyl-2H-pyridazin-3-one and 2-aminoethanol were heated under reflux for 4 hours. Post-treatments were conducted as in Example 43, whereby the title compound was obtained in a yield of 91.0%.

reactant | 2-ethoxycarbonylmethyl-6-(4-methoxyphenyl)-4-methylcarbamoyl-2H-pyridazin-3-one | C(C)OC(=O)CN1N=C(C=C(C1=O)C(NC)=O)C1=CC=C(C=C1)OC | C17H19N3O5
reactant | 2-aminoethanol | NCCO | C2H7NO
solvent | methanol | CO | CH4O
product | 2-(2-Hydroxyethyl)carbamoylmethyl-6-(4-methoxyphenyl)-4-methylcarbamoyl-2H-pyridazin-3-one | yield of 91.0% | OCCNC(=O)CN1N=C(C=C(C1=O)C(NC)=O)C1=CC=C(C=C1)OC | C17H20N4O5
